US06936616B2
Pyrimidine-4,6-dicarboxylic Acid, Bis-benzylamide
Pyrimidine-4,6-dicarboxylic acid is dissolved in dichloromethane (DCM) at 24° C. To the solution is added three equivalents of thionyl chloride. The reaction mixture is stirred at 24° C. for 1 hour. The reaction mixture is concentrated by evaporation of the solvent under reduced pressure to give an oil. The oil is dissolved in ethyl acetate, and three equivalents of benzylamine are added. The reaction mixture is stirred at 24° C. for 3 hours. The solvent is than removed by evaporation under reduced pressure to give an oil. The oil is purified by chromatography over silica gel, eluting with hexane-ethyl acetate (9:1) to 100% ethyl acetate. The fractions shown by thin layer chromatography to contain a single product component are combined and concentrated to dryness under reduced pressure to give the title compound.

reactant | Pyrimidine-4,6-dicarboxylic acid | N1=CN=C(C=C1C(=O)O)C(=O)O | C6H4N2O4
reactant | thionyl chloride | three equivalents | S(=O)(Cl)Cl | Cl2OS
reactant | benzylamine | three equivalents | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Pyrimidine-4,6-dicarboxylic Acid, Bis-benzylamide | C(C1=CC=CC=C1)N(C(=O)C1=NC=NC(=C1)C(=O)O)CC1=CC=CC=C1 | C20H17N3O3
